US09212190B2
To a solution of tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate (100 mg, 0.2 mmol, 1.00 equiv) in 10 mL of methanol was added LiOH.H2O (30 mg, 0.7 mmol, 3.26 equiv) and H2O2 (30%, 0.8 mL) and stirred for 4 h at 0° C. The reaction was then quenched with saturated aqueous NaHSO3, extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was purified by column chromatography on silica gel with EtOAc/PE (1:2) to give the desired tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate (85 mg) as a light yellow oil.

reactant | tert-butyl N-(4-[[(3R)-3-(cyanomethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate | 0.2 mmol, 100 mg, 1.00 equiv | C(#N)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(C)N(C(OC(C)(C)C)=O)C | C24H32N4O3S
reactant | LiOH.H2O | 0.7 mmol, 30 mg, 3.26 equiv | O[Li].O
reactant | H2O2 | 0.8 mL | OO | H2O2
solvent | methanol | 10 mL | CO | CH4O
product | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]-1-methylcyclohexyl)-N-methylcarbamate | 85 mg | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)(C)N(C(OC(C)(C)C)=O)C | C24H34N4O4S
